US08791119B2
To a solution of 9.50 g (56.5 mmol) of 4-phenyl-1H-pyrrole-3-carbonitrile (CAS 40167-37-1) in 300 ml of acetonitrile are added portionwise 24.0 g (67.8 mmol) of 1-chloromethyl-4-fluoro-1,4-diazoniabicyclo[2.2.2]octane bis(tetrafluoroborate) (SelectFluor—CAS 140681-55-6), with a certain amount of exothermicity being observed. The mixture is stirred for 18 hours at 60° C. After cooling, the reaction medium is concentrated under reduced pressure and the residue is then taken up in 500 ml of ethyl acetate. The solution is washed twice with 250 ml of water and then with saturated aqueous sodium chloride solution. The organic phase is dried over sodium sulfate and the solvent is evaporated off under reduced pressure to give a brown oil, which is chromatographed on a column of silica gel, eluting with a mixture of 15% ethyl acetate in cyclohexane, to give 3.75 g of 5-fluoro-4-phenyl-1H-pyrrole-3-carbonitrile in the form of a red oil after drying, which product is used as obtained for the rest of the synthesis.

reactant | 4-phenyl-1H-pyrrole-3-carbonitrile | 56.5 mmol, 9.50 g | C1(=CC=CC=C1)C=1C(=CNC1)C#N | C11H8N2
reactant | 1-chloromethyl-4-fluoro-1,4-diazoniabicyclo[2.2.2]octane bis(tetrafluoroborate) | 67.8 mmol, 24.0 g | F[B-](F)(F)F.F[B-](F)(F)F.ClC[N+]12CC[N+](CC1)(CC2)F
solvent | acetonitrile | 300 ml | C(C)#N | C2H3N
product | 5-fluoro-4-phenyl-1H-pyrrole-3-carbonitrile | 3.75 g | FC1=C(C(=CN1)C#N)C1=CC=CC=C1 | C11H7FN2
